US07304071B2
4-(2,5-Dichloropyrimidin-4-yl)-benzoic acid methyl ester (85 mg, 0.30 mmol) was dissolved in ethanol with 0.2 mL cyclopropylamine and the reaction mixture heated to 80° C. overnight. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and concentrated to afford 4-(5-chloro-2-cyclopropylaminopyrimidin-4-yl)-benzoic acid methyl ester as a solid, 90 mg, 0.30 mmol, 100% yield. LCMS: ES+=304.1.

reactant | 4-(2,5-Dichloropyrimidin-4-yl)-benzoic acid methyl ester | 0.30 mmol, 85 mg | COC(C1=CC=C(C=C1)C1=NC(=NC=C1Cl)Cl)=O | C12H8Cl2N2O2
reactant | cyclopropylamine | 0.2 mL | C1(CC1)N | C3H7N
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(5-chloro-2-cyclopropylaminopyrimidin-4-yl)-benzoic acid methyl ester | 100% yield | COC(C1=CC=C(C=C1)C1=NC(=NC=C1Cl)NC1CC1)=O | C15H14ClN3O2
